US09238647B2
Step A: 2-(benzylamino)-6-(4-methylphenyl)isonicotinic acid
To a solution of 2-(benzylamino)-6-chloroisonicotinic acid (0.9 g, 3.43 mmol) in THF (8.57 mL) and water (8.57 mL) were added (4-methylphenyl)boronic acid (0.70 g, 5.14 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.14 g, 0.17 mmol) and cesium carbonate (3.35 g, 10.3 mmol). The mixture was purged with nitrogen and was heated to 120° C. in the microwave reactor for 7 min. The mixture was filtered with Celite and saturated aqueous sodium bicarbonate was added. The mixture was extracted with ethyl acetate (3×). The combined organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→80% dichloromethane/methanol) gave the title compound (0.63 g): LC-MS [M+1]=318.9.

reactant | 2-(benzylamino)-6-chloroisonicotinic acid | 3.43 mmol, 0.9 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(N1)Cl | C13H11ClN2O2
reactant | (4-methylphenyl)boronic acid | 5.14 mmol, 0.70 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | cesium carbonate | 10.3 mmol, 3.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 8.57 mL | C1CCOC1 | C4H8O
solvent | water | 8.57 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.17 mmol, 0.14 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-(benzylamino)-6-(4-methylphenyl)isonicotinic acid | 0.63 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(N1)C1=CC=C(C=C1)C | C20H18N2O2
